US09193724B2
Copper cyanide (0.829 g, 0.00925 mol) was added at RT to a sealed tube containing 3-bromo-4-cyclopropyl-5-fluoro-pyridine (B; 1 g, 0.00462 mol) in dimethylformamide (20 mL). The reaction mixture was heated to 150° C. for 18 hr, then cooled to RT, quenched with 20% aqueous ammonia (20 mL) solution, and stirred for 5 min. It was extracted with diethyl ether (2×100 mL). The combined organic layers were washed with water (2×50 mL) and dried over anhydrous sodium sulphate to afford 4-cyclopropyl-5-fluoronicotinonitrile. MS (M+1): 163.1.

reactant | Copper cyanide | 0.00925 mol, 0.829 g | [Cu](C#N)C#N
reactant | 3-bromo-4-cyclopropyl-5-fluoro-pyridine | 0.00462 mol, 1 g | BrC=1C=NC=C(C1C1CC1)F | C8H7BrFN
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-cyclopropyl-5-fluoronicotinonitrile | C1(CC1)C1=C(C=NC=C1C#N)F | C9H7FN2
